US07994179B2
Intermediate 8-6: Ethyl 2-diazo-4,4-difluoro-3-oxobutanoate
This compound was synthesised from 4,4-difluoro-3-oxo-butyric acid ethyl ester (CAS 352-24-9) and polymer-bound tosylazide using similar conditions as described in Intermediate 1-7. The crude was used directly in next step.

reactant | 4,4-difluoro-3-oxo-butyric acid ethyl ester | C(C)OC(CC(C(F)F)=O)=O | C6H8F2O3
reactant | tosylazide | S(=O)(=O)(C1=CC=C(C)C=C1)N=[N+]=[N-] | C7H7N3O2S
product | Ethyl 2-diazo-4,4-difluoro-3-oxobutanoate | [N+](=[N-])=C(C(=O)OCC)C(C(F)F)=O | C6H6F2N2O3
